US08685969B2
8. 4-(3-(5-Fluoroisoindoline-2-carboxamido)-2-methylphenyl)-7-(tetrahydrofuran-3-yloxy)-9H-pyrido[3,4-b]indole-1-carboxamide
To a heterogeneous mixture of 4-(3-amino-2-methylphenyl)-7-(tetrahydrofuran-3-yloxy)-9H-pyrido[3,4-b]indole-1-carboxamide (38 mg, 0.081 mmol) and 4-nitrophenyl carbonochloridate (19.64 mg, 0.097 mmol) in dichloromethane (2 mL) at room temperature was added pyridine (0.013 mL, 0.162 mmol). The resulting homogeneous mixture was stirred at room temperature for 1 hr before 5-fluoroisoindoline hydrocloride (35.2 mg, 0.203 mmol) and N,N-diisopropylethylamine (0.053 mL, 0.305 mmol) was added. The mixture was heated at 50° C. for 1 hr. It was concentrated under vacuum, diluted with MeOH (1.8 mL), and was purified by reverse phase HPLC. The correct fraction was concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with CH2Cl2 (3×30 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (26.4 mg, 0.045 mmol, 54.9% yield) as a yellow solid. LCMS (M+H)+=566.34. 1H NMR (500 MHz, DMSO-d6) δ: 11.67 (s, 1H), 8.36 (m, 1H), 8.18 (s, 1H), 8.12 (s, 1H), 7.79 (s, 1H), 7.64 (d, J=6.9 Hz, 1H), 7.46-7.39 (m, 3H), 7.29 (dd, J1=9.0 Hz, J2=2.4 Hz, 1H), 7.23-7.17 (m, 2H), 7.08 (d, J=8.6 Hz, 1H), 6.70 (dd, J1=8.7 Hz, J2=2.4 Hz, 1H), 5.10 (m, 1H), 4.85 (s, 2H), 4.82 (s, 2H), 3.99 (dd, J1=10.5 Hz, J2=4.2 Hz, 1H), 3.92-3.83 (m, 2H), 3.84 (m, 1H), 2.32 (m, 1H), 2.09 (m, 1H), 2.01 (s, 3H).

reactant | 4-(3-amino-2-methylphenyl)-7-(tetrahydrofuran-3-yloxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.081 mmol, 38 mg | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OC2COCC2)C(=O)N)C | C23H22N4O3
reactant | 4-nitrophenyl carbonochloridate | 0.097 mmol, 19.64 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | pyridine | 0.162 mmol, 0.013 mL | N1=CC=CC=C1 | C5H5N
reactant | 5-fluoroisoindoline hydrocloride | 0.203 mmol, 35.2 mg | Cl.FC=1C=C2CNCC2=CC1
reactant | N,N-diisopropylethylamine | 0.305 mmol, 0.053 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(3-(5-Fluoroisoindoline-2-carboxamido)-2-methylphenyl)-7-(tetrahydrofuran-3-yloxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.045 mmol, 26.4 mg, 54.9% yield | FC=1C=C2CN(CC2=CC1)C(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OC2COCC2)C(=O)N)C | C32H28FN5O4
